US08247576B2
42A. 1-(4-Bromo-phenyl)-2-methylamino-ethanol
A solution of 2-(4-bromophenyl)-oxirane (0.5 g, 2.51 mmol) in methylamine (6.6 ml, 33% by volume in ethanol, 25.12 mmol) was stirred at room temperature under an atmosphere of nitrogen. After 18 hours the solvent was removed in vacuo and the residue was purified over flash silica eluting with dichloromethane: methanol: acetic acid:water (120:15:3:2) to afford the desired compound as the acetic acid salt. Further purification over a Phenomenex_Strata_SCX column eluting with methanol followed by 2N ammonia in methanol gave the desired product. LC/MS: (PS-B3) Rt 2.52 [M+H]+ 230.

reactant | 2-(4-bromophenyl)-oxirane | 2.51 mmol, 0.5 g | BrC1=CC=C(C=C1)C1OC1 | C8H7BrO
reactant | methylamine | 25.12 mmol, 6.6 ml | CN | CH5N
product | 1-(4-Bromo-phenyl)-2-methylamino-ethanol | BrC1=CC=C(C=C1)C(CNC)O | C9H12BrNO
